US04374829
4-Methyl-2-oxopentanoic acid (1.29 g) and L-alanyl-L-proline (0.32 g) were treated with sodium cyanoborohydride (0.32 g) as described above. A fluffy white solid, N-(1-carboxy-3-methylbutyl)-L-alanyl-L-proline, was obtained (0.40 g). A portion was purified by chromatography. The mass spectrum showed a peak at 429 (molecular ion of disilyl derivative minus methyl, 444-15). The nmr spectrum showed resonances centered at 4.4, 3.6, 2.1, 1.6, and 0.95 ppm.

reactant | 4-Methyl-2-oxopentanoic acid | 1.29 g | CC(CC(C(=O)O)=O)C | C6H10O3
reactant | L-alanyl-L-proline | 0.32 g | N[C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1 | C8H14N2O3
reactant | sodium cyanoborohydride | 0.32 g | C(#N)[BH3-].[Na+]
product | N-(1-carboxy-3-methylbutyl)-L-alanyl-L-proline | C(=O)(O)C(CC(C)C)N[C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1 | C14H24N2O5
